US05773591
To a 100 mL round-bottom flask fitted with a mechanical stirrer, nitrogen inlet and bubbler was charged 4-hydroxycoumarin (3.1 g, 18.8 mmol) dissolved in dry THF (21.6 g) and triethylamine (1.8 g). A solution of p-toluenesulfonyl azide (5.3 g, 28.3 mmol) in dry THF (14.4 g) was then added to this solution dropwise over a period of 15 minutes. The reaction was continued until all of 4-hydroxycoumarin had reacted as monitored by HPLC (ca. 2.0 hours). The precipitated reaction product was filtered on a small Buchner funnel and the filtrate was packed in powdered dry ice to produce a second crop of crystals which were also isolated by filtration. The combined filtercakes were dried overnight under vacuum at 60° C. to obtain orange colored crystals of 3-diazo-4-oxo-3,4-dihydrocoumarin; yield 2.5 g (70.6% yield). The crude product was further purified by dissolving it in 75.0 g of acetone and precipitating by pouring into 150.0 g ice-water yielding pale yellow crystals. The product was characterized by 13C NMR, and DSC. A sample recrystallized from acetone-water melted at 159.5° C.; 13C-NMR in DMSO-d6 solvent showed 9 singlet lines at the following chemical shifts, in ppm: 173.748, 157.754, 153.316, 136.239, 125.231, 125.063, 118.696, 117.741, 77.022.

reactant | 4-hydroxycoumarin | 18.8 mmol, 3.1 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | p-toluenesulfonyl azide | 28.3 mmol, 5.3 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | THF | 21.6 g | C1CCOC1 | C4H8O
solvent | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
solvent | THF | 14.4 g | C1CCOC1 | C4H8O
product | 3-diazo-4-oxo-3,4-dihydrocoumarin | 70.6% yield | [N+](=[N-])=C1C(OC2=CC=CC=C2C1=O)=O | C9H4N2O3
